US07186729B2
Step 1: 3-(4-Chloro-benzylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of 3-Amino-pyrrolidine-1-carboxylic acid tert-butyl ester (2 g, 10.7 mmol) in methanol (20 mL) was added 4-Chloro-benzaldehyde (1.5 g, 10.7 mmol). The resultant solution was heated at 60° C. overnight. The reaction mixture was cooled to 0° C. and to it was added NaBH4 (629 mg, 10 mmol). After 1 h, the reaction solution was quenched with saturated NaHCO3 solution and extracted with ethyl acetate. The organic extract was dried over MgSO4, filtered and concentrated to provide the crude product as an oil. The crude product was used in the subsequent reaction without further purification. LCMS (retention time=1.27, ES+311).

reactant | 3-Amino-pyrrolidine-1-carboxylic acid tert-butyl ester | 10.7 mmol, 2 g | C(C)(C)(C)OC(=O)N1CC(CC1)N | C9H18N2O2
reactant | 4-Chloro-benzaldehyde | 10.7 mmol, 1.5 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | NaBH4 | 10 mmol, 629 mg | [BH4-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | 3-(4-Chloro-benzylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NCC1=CC=C(C=C1)Cl | C16H23ClN2O2
